US08609732B2
To a solution of 2-nitro-N-phenylbenzamide (5 g; 20.7 mmol; 1 equiv.) in MeOH (65 mL) was added palladium on charcoal (550 mg) and decaborane (757 mg; 6.2 mmol; 0.3 equiv.) at room temperature. The mixture was heated at 60° C. for 6 hours, filtered over celite, washed with AcOEt and evaporated to give 2-amino-N-phenylbenzamide as brown solid (4.2 g; 96%) which was used without further purification.

reactant | 2-nitro-N-phenylbenzamide | 20.7 mmol, 5 g, 1 equiv. | [N+](=O)([O-])C1=C(C(=O)NC2=CC=CC=C2)C=CC=C1 | C13H10N2O3
reactant | decaborane | 6.2 mmol, 757 mg, 0.3 equiv. | [B][B][B][B][B][B][B][B][B][B] | B10
solvent | MeOH | 65 mL | CO | CH4O
catalyst | palladium on charcoal | 550 mg | [Pd] | Pd
product | 2-amino-N-phenylbenzamide | NC1=C(C(=O)NC2=CC=CC=C2)C=CC=C1 | C13H12N2O
